US08563575B2
A mixture of 3-[4-(benzyloxy)phenyl]-1-ethyl-2-oxo-2,3-dihydro-1H-imidazo[4,5-b]pyridine-6-carbonitrile (500 mg) and 10% Pd—C (71.8 mg) in EtOAc (50 ml) was hydrogenated under balloon pressure at room temperature for 1 h. The catalyst was removed by filtration and the filtrate was concentrated in vacuo. The residue was purified by column chromatography (silica gel, eluted with 0%-50% EtOAc in hexane) to give 1-ethyl-3-(4-hydroxyphenyl)-2-oxo-2,3-dihydro-1H-imidazo[4,5-b]pyridine-6-carbonitrile (90 mg) as a white solid.

reactant | 3-[4-(benzyloxy)phenyl]-1-ethyl-2-oxo-2,3-dihydro-1H-imidazo[4,5-b]pyridine-6-carbonitrile | 500 mg | C(C1=CC=CC=C1)OC1=CC=C(C=C1)N1C(N(C=2C1=NC=C(C2)C#N)CC)=O | C22H18N4O2
solvent | EtOAc | 50 ml | CCOC(=O)C | C4H8O2
catalyst | Pd—C | 71.8 mg | [Pd] | Pd
product | 1-ethyl-3-(4-hydroxyphenyl)-2-oxo-2,3-dihydro-1H-imidazo[4,5-b]pyridine-6-carbonitrile | 90 mg | C(C)N1C(N(C2=NC=C(C=C21)C#N)C2=CC=C(C=C2)O)=O | C15H12N4O2
